US07504413B2
3-Cyano-N-((1S)-3-hydroxy-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}propyl)-4-[(1-methylethyl)oxy]benzamide
To a solution of N-((1S)-1-{[4-(bromoacetyl)phenyl]methyl}-3-hydroxypropyl)-3-cyano-4-[(1-methylethyl)oxy]benzamide (300 mg, 0.634 mmol) in i-PrOH (6 mL) was added 2-amino-3-picoline (Aldrich, 69 mg, 0.634 mmol) followed by solid NaHCO3 (64 mg, 0.761 mmol). The resultant suspension was heated to 80° C. After 7 h, a majority of the i-PrOH was removed under reduced pressure and the residue was dissolved in 3% MeOH/EtOAc (30 mL) and washed with water (10 mL) and brine (10 mL). The combined aqueous layers were extracted with 3% MeOH/EtOAc (30 mL) and the combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by reverse phase HPLC (MeCN/H2O with 0.1% TFA) and the clean fractions were adjusted to pH ˜8 with saturated aqueous NaHCO3 and extracted with 3% MeOH/EtOAc (3×30 mL). The extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to give 215 mg (70%) of the title compound as a pale yellow solid. LC/MS (ES) m/e 483.2 (M+H)+.

reactant | N-((1S)-1-{[4-(bromoacetyl)phenyl]methyl}-3-hydroxypropyl)-3-cyano-4-[(1-methylethyl)oxy]benzamide | 0.634 mmol, 300 mg | BrCC(=O)C1=CC=C(C=C1)C[C@@H](CCO)NC(C1=CC(=C(C=C1)OC(C)C)C#N)=O | C23H25BrN2O4
reactant | 2-amino-3-picoline | 0.634 mmol, 69 mg | NC1=NC=CC=C1C | C6H8N2
reactant | NaHCO3 | 0.761 mmol, 64 mg | C(=O)(O)[O-].[Na+]
solvent | i-PrOH | 6 mL | CC(C)O | C3H8O
product | 3-Cyano-N-((1S)-3-hydroxy-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}propyl)-4-[(1-methylethyl)oxy]benzamide | 215 mg, 70% | C(#N)C=1C=C(C(=O)N[C@H](CCO)CC2=CC=C(C=C2)C=2N=C3N(C=CC=C3C)C2)C=CC1OC(C)C | C29H30N4O3
